US08039490B2
(4-{2-[4-(4-Fluoro-benzoyl)-4-hydroxy-piperidin-1-yl]-ethyl}-cyclohexyl)-carbamic acid tert-butyl ester
The title compound was prepared from ((4-Fluoro-phenyl)-(4-hydroxy-piperidin-4-yl)-methanone and trans-[4-(2-Oxo-ethyl)-cyclohexyl]-carbamic acid tert-butyl ester according to the procedure described for the synthesis of (4-{2-Trans-[4-(4-Fluoro-benzoyl)-piperidin-1-yl]-ethyl}-cyclohexyl)-carbamic acid tert-butyl ester (intermediate E, example 1) in 1,2 dichloroethane using triacetoxyborohydride. MS (m/e): 451.1 (M+H+).

reactant | (4-Fluoro-phenyl)-(4-hydroxy-piperidin-4-yl)-methanone | FC1=CC=C(C=C1)C(=O)C1(CCNCC1)O | C12H14FNO2
reactant | trans-[4-(2-Oxo-ethyl)-cyclohexyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)CC=O)=O | C13H23NO3
reactant | triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O
solvent | 1,2 dichloroethane | ClCCCl | C2H4Cl2
product | (4-{2-[4-(4-Fluoro-benzoyl)-4-hydroxy-piperidin-1-yl]-ethyl}-cyclohexyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CCC(CC1)CCN1CCC(CC1)(O)C(C1=CC=C(C=C1)F)=O)=O | C25H37FN2O4
